US04474692
A solution of 22.3 g of N-carbobenzoxy-L-alanine and 14 ml of triethylamine in 200 ml of tetrahydrofuran is cooled to -10° C., and 13.1 ml of isobutyl chlorocarbonate is added dropwise in portions with stirring. After stirring for 30 minutes, a solution of 24.1 g of N-(indan-2-yl)glycine ethyl ester hydrochloride and 14 ml of triethylamine in 200 ml of chloroform is added dropwise at -10° C. to -5° C. After standing overnight at room temperature, the reaction mixture is washed in sequence with water, aqueous sodium hydrogen carbonate, 10% hydrochloric acid and water, and dried over anhydrous sodium sulfate. The solvent is distilled off under reduced pressure, the residue is dissolved in 100 ml of methanol, 75 ml of 2N sodium hydroxide is added, and the mixture is stirred at room temperature for 2 hours. Then, the mixture is made acidic with 10% hydrochloric acid to separate the resulting oil, which is extracted with 500 ml of ethyl acetate. The extract washed with water and dried, and the solvent is distilled off under reduced pressure to give 25 g of N-carbobenzoxy-L-alanyl-N-(indan-2-yl)glycine as an oil. This is dissolved in 50% ethanol and subjected to catalytic reduction in the presence of 4 g of 10% palladium-carbon. When the hydrogen absorption has ceased, the catalyst is filtered off, and the filtrate is concentrated under reduced pressure. Addition of 50 ml of methanol to the residue yields 11 g of L-alanyl-N-(indan-2-yl)glycine as colorless needles melting at 180°-182° C.

reactant | N-carbobenzoxy-L-alanine | 22.3 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chlorocarbonate | 13.1 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | N-(indan-2-yl)glycine ethyl ester hydrochloride | 24.1 g | Cl.C(C)OC(CNC1CC2=CC=CC=C2C1)=O
reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-carbobenzoxy-L-alanyl-N-(indan-2-yl)glycine | 25 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | C22H24N2O5
